datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"C[NH+](C)Cc1c[n:10]c2ccc(-c3ccccc3)nn12.[Se-]c1c2[nH]cnc2nc[n+:21]1[H:20]>>C[NH+](C)Cc1c[n+:10]([H:20])c2ccc(-c3ccccc3)nn12.[Se-]c1c2[nH]cnc2nc[n:21]1 10=20;20,21=21",
"NC1=NS(=O)(=O)Nc2c1[nH]c[n:10]2.NNC(=O)c1cc[n+:21]([H:20])cc1>>NC1=NS(=O)(=O)Nc2c1[nH]c[n+:10]2[H:20].NNC(=O)c1cc[n:21]cc1 10=20;20,21=21",
"Cc1cc2c(cc1[N+](=O)[O-])c(NCCC[NH+](C)C)cc[n:10]2.OCc1[nH]c2ccc(Cl)cc2[n+:21]1[H:20]>>Cc1cc2c(cc1[N+](=O)[O-])c(NCCC[NH+](C)C)cc[n+:10]2[H:20].OCc1[nH]c2ccc(Cl)cc2[n:21]1 10=20;20,21=21",
"CCc1[nH]c2cc3c(cc2[n+:21]1[H:20])CCCC3.COC(=O)C(CCONC(N)=O)[NH2:10]>>CCc1[nH]c2cc3c(cc2[n:21]1)CCCC3.COC(=O)C(CCONC(N)=O)[NH2+:10][H:20] 10=20;20,21=21",
"CC1CCn2nnnc2C(C(=O)[O:21][H:20])C1.COc1ccccc1CCC(=O)[O-:10]>>CC1CCn2nnnc2C(C(=O)[O-:21])C1.COc1ccccc1CCC(=O)[O:10][H:20] 10=20;20,21=21",
"CCOC(=O)c1ccccc1-n1nc([O-:10])cc1C.Nc1c(C(=O)[O-])ccc[n+:21]1[H:20]>>CCOC(=O)c1ccccc1-n1nc([O:10][H:20])cc1C.Nc1c(C(=O)[O-])ccc[n:21]1 10=20;20,21=21",
"CC(C)[NH+]1CCC(N[NH:10]C(C)C)CC1.O=C1C=CC=CC(O)=C1[O:21][H:20]>>CC(C)[NH+]1CCC(N[NH+:10](C(C)C)[H:20])CC1.O=C1C=CC=CC(O)=C1[O-:21] 10=20;20,21=21",
"CC1(C)C(=[N+:21](C)[H:20])C(C)(C)c2ccccc21.CSSC(CCO)=C(C)N(C=O)Cc1c[n:10]c(C)nc1N>>CC1(C)C(=[N:21]C)C(C)(C)c2ccccc21.CSSC(CCO)=C(C)N(C=O)Cc1c[n+:10]([H:20])c(C)nc1N 10=20;20,21=21",
"Cc1cccc2[nH]c[n+:21]([H:20])c12.N#CC1CC2CC[N:10]1CC2>>Cc1cccc2[nH]c[n:21]c12.N#CC1CC2CC[N+:10]1([H:20])CC2 10=20;20,21=21",
"O=C(C[NH2:10])c1ccc(O)cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C(C[NH2+:10][H:20])c1ccc(O)cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCC(CC(C)C)O[O-:10].O=C(N[O:21][H:20])c1cccc2ccccc12>>CCC(CC(C)C)O[O:10][H:20].O=C(N[O-:21])c1cccc2ccccc12 10=20;20,21=21",
"N#CC[N:10]1CCCCC1.Nc1cc[nH+]c2c1ncn2CCOCP(=O)([O-])[O:21][H:20]>>N#CC[N+:10]1([H:20])CCCCC1.Nc1cc[nH+]c2c1ncn2CCOCP(=O)([O-])[O-:21] 10=20;20,21=21",
"COC(=O)c1ccc[n:10]c1.Cc1ccc(S(=O)(=O)N(CC[NH2+]CC(=O)[O:21][H:20])CC(=O)O)cc1>>COC(=O)c1ccc[n+:10]([H:20])c1.Cc1ccc(S(=O)(=O)N(CC[NH2+]CC(=O)[O-:21])CC(=O)O)cc1 10=20;20,21=21",
"CN(C(=O)c1ccccc1)c1cc[n:10]cc1.Cc1ccccc1C[NH2+:21][H:20]>>CN(C(=O)c1ccccc1)c1cc[n+:10]([H:20])cc1.Cc1ccccc1C[NH2:21] 10=20;20,21=21",
"C[n+]1ccccc1-c1cccc[n+:21]1[H:20].OC(=C1SCc2ccccc21)[O-:10]>>C[n+]1ccccc1-c1cccc[n:21]1.OC(=C1SCc2ccccc21)[O:10][H:20] 10=20;20,21=21",
"Cc1ccc[n:10]c1C.c1ccc2c(c1)n[n+:21]([H:20])c1ccccc21>>Cc1ccc[n+:10]([H:20])c1C.c1ccc2c(c1)n[n:21]c1ccccc21 10=20;20,21=21",
"CC(C)=N[N:21](S(C)(=O)=O)[H:20].CCCOc1ccc(C(=O)[O-:10])cc1>>CC(C)=N[N-:21]S(C)(=O)=O.CCCOc1ccc(C(=O)[O:10][H:20])cc1 10=20;20,21=21",
"Cc1ccc([O-:10])c(C)c1.c1ccc(Nc2nnn[n:21]2[H:20])cc1>>Cc1ccc([O:10][H:20])c(C)c1.c1ccc(Nc2nnn[n-:21]2)cc1 10=20;20,21=21",
"C[N+:21](C)(CCCCC(=O)Oc1ccc([N+](=O)[O-])cc1)[H:20].NC1=NS(=O)(=O)[N-]c2nc[n-:10]c21>>C[N:21](C)CCCCC(=O)Oc1ccc([N+](=O)[O-])cc1.NC1=NS(=O)(=O)[N-]c2nc[n:10]([H:20])c21 10=20;20,21=21",
"CCOC(=O)/C(=N/[O-:10])c1ccccc1.Cc1cc(S(=O)(=O)[N:21](c2nccs2)[H:20])ccc1N>>CCOC(=O)/C(=N/[O:10][H:20])c1ccccc1.Cc1cc(S(=O)(=O)[N-:21]c2nccs2)ccc1N 10=20;20,21=21",
"Cc1ccc(S(=O)(=O)[N-:10]CCC(=O)[O-])cc1.Cn1c(C[O:21][H:20])nc2ccccc21>>Cc1ccc(S(=O)(=O)[N:10](CCC(=O)[O-])[H:20])cc1.Cn1c(C[O-:21])nc2ccccc21 10=20;20,21=21",
"C[n+]1c2ccccc2cc2cc([NH:21][H:20])ccc21.Cc1cc(C)[n-:10]n1>>C[n+]1c2ccccc2cc2cc([NH-:21])ccc21.Cc1cc(C)[n:10]([H:20])n1 10=20;20,21=21",
"O=C(Cc1ccccc1)[O:21][H:20].O=C(c1ccccc1CO)[O-:10]>>O=C(Cc1ccccc1)[O-:21].O=C(c1ccccc1CO)[O:10][H:20] 10=20;20,21=21",
"C[NH:10]Cc1ccccc1.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>C[NH+:10](Cc1ccccc1)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"Cc1ccc(C(=O)[O-:10])cc1[N+](=O)[O-].OCC(S)C[S:21][H:20]>>Cc1ccc(C(=O)[O:10][H:20])cc1[N+](=O)[O-].OCC(S)C[S-:21] 10=20;20,21=21",
"O=C1C=CC(=O)c2c1cccc2[O:21][H:20].Oc1ccc2c[n:10]ncc2c1>>O=C1C=CC(=O)c2c1cccc2[O-:21].Oc1ccc2c[n+:10]([H:20])ncc2c1 10=20;20,21=21",
"CC(=O)C(=O)[O:21][H:20].Clc1cc(Cl)c([O-:10])c(C[NH+]2CCCCC2)c1Cl>>CC(=O)C(=O)[O-:21].Clc1cc(Cl)c([O:10][H:20])c(C[NH+]2CCCCC2)c1Cl 10=20;20,21=21",
"C/C(=N\[O-:10])C(=O)[N-]O.CCCCCC[NH+:21](c1ccccc1)[H:20]>>C/C(=N\[O:10][H:20])C(=O)[N-]O.CCCCCC[NH:21]c1ccccc1 10=20;20,21=21",
"CC1CCCC/C1=[N:10]/CC(=O)[O-].COc1ncc2c(nc[n:21]2[H:20])n1>>CC1CCCC/C1=[N+:10](/CC(=O)[O-])[H:20].COc1ncc2c(nc[n-:21]2)n1 10=20;20,21=21",
"C#CC[NH:10]CC#C.Cc1cc2c(C)c(C)c3cccnc3c2[n+:21]([H:20])c1>>C#CC[NH+:10](CC#C)[H:20].Cc1cc2c(C)c(C)c3cccnc3c2[n:21]c1 10=20;20,21=21",
"C#CC[NH:10]CC#C.COC(=O)C(Cc1c[nH]c[n+:21]1[H:20])NC(C)=O>>C#CC[NH+:10](CC#C)[H:20].COC(=O)C(Cc1c[nH]c[n:21]1)NC(C)=O 10=20;20,21=21",
"O=C1c2c(nc[n-:10]2)N=CN1[O-].[O-]c1c2cnc3ccccc3c2cc[n+:21]1[H:20]>>O=C1c2c(nc[n:10]2[H:20])N=CN1[O-].[O-]c1c2cnc3ccccc3c2cc[n:21]1 10=20;20,21=21",
"CCNCC[NH+:21](CC)[H:20].COc1ccc([NH:10]C)cc1>>CCNCC[NH:21]CC.COc1ccc([NH+:10](C)[H:20])cc1 10=20;20,21=21",
"CC(C)C1CC(CC(=O)[O-:10])[NH2+]C1C(=O)[O-].Oc1ccc2c[n+:21]([H:20])c3ccccc3c2c1>>CC(C)C1CC(CC(=O)[O:10][H:20])[NH2+]C1C(=O)[O-].Oc1ccc2c[n:21]c3ccccc3c2c1 10=20;20,21=21",
